US05935973
A solution of boron tribromide in dichloromethane (1.0 M; 197.4 ml) was added to a solution of 2,3-difluoro-6-methoxybenzaldehyde (10.4 g; prepared in a similar manner to that described above) in dichloromethane (100 ml) under nitrogen stirring below -20° C. The resulting solution was allowed to warm to ambient temperature overnight, then methanol (200 ml) followed by water (100 ml) were added, and the mixture heated at 40° C. for 2 hours. The aqueous layer was separated and extracted with dichloromethane (2×300 ml). The combined organic solutions were extracted with aqueous sodium hydroxide solution (1 M; 3×400 ml) and the combined extracts acidified with concentrated hydrochloric acid, then extracted with ethyl acetate (3×300 ml). These combined extracts were dried over magnesium sulphate and the solvent removed in vacuo to give 2,3-difluoro-6-hydroxybenzaldehyde (8.12 g) as a solid.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 2,3-difluoro-6-methoxybenzaldehyde | FC1=C(C=O)C(=CC=C1F)OC | C8H6F2O2
reactant | methanol | 200 ml | CO | CH4O
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 1.0 M, 197.4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,3-difluoro-6-hydroxybenzaldehyde | 8.12 g | FC1=C(C=O)C(=CC=C1F)O | C7H4F2O2
